US04182885
1-amino-2-methylanthraquinone (300 g) is slurried with 1500 ml of HOAc in a 5-liter flask. The temperature is raised to 40° C. Neat bromine (405 g) is added over 21/2 hours with stirring at 40°-50° C. The mixture is stirred for 20 additional minutes and filtered. The solids so recovered are washed with HOAc and water and sucked dry with an aspirator and transferred to a reaction flask along with 150 g of NaHSO3 and 1.5 liters of water. The mixture is gradually heated to 90° C. (over two hours) with stirring to give 1-amino-2-methyl-4-bromoanthraquinone as a solid which is recovered from the reaction mixture by filtration in 90% yield, rinsed with water and dried overnight at 155° C. and 1 mm Hg absolute vacuum.

reactant | 1-amino-2-methylanthraquinone | 300 g | NC1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C | C15H11NO2
reactant | bromine | 405 g | BrBr | Br2
solvent | HOAc | 1500 ml | CC(=O)O | C2H4O2
product | 1-amino-2-methyl-4-bromoanthraquinone | 90% yield | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)Br)C | C15H10BrNO2
